US07319102B1
Preparation of 3-(2-chlorophenyl)-3-[7-(2,6-difluoro-phenyl)-2-(2-hydroxy-1,2-dimethyl-propylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-acrylic acid ethyl ester (15):
To a solution of 3-(2-chloro-phenyl)-3-[7-(2,6-difluoro-phenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-acrylic acid ethyl ester, 14, (0.30 g, 0.59 mmol)) in N-methylpyrrolidinone (4 mL) is added diisopropylethylamine (0.41 mL, 2.36 mmol) and 3-amino-2-methyl-butan-2-ol hydrochloride salt (0.10 g, 0.71 mmol). After heating the reaction at 90° C. for 21 hours, an additional equivalent of 3-amino-2-methyl-butan-2-ol hydrochloride salt (0.08 g, 0.59 mmol) is added and the mixture heated at 120° C. for 4 hours. The reaction is cooled to room temp and then diluted with aqueous saturated NH4Cl solution. The aqueous phase is twice extracted with CHCl3 and the organic phase is then washed with aqueous saturated NaHCO3 solution. The organic phase is dried (MgSO4), filtered, concentrated in vacuo and the resulting residue is purified by preparative HPLC to afford the desired product as a yellowish solid: 1H NMR (300 MHz, d3-DMSO) δ 8.64 (s, 1H), 7.64-7.52 (m, 1H), 7.38-7.24 (m, 5H), 7.14-7.08 (m, 1H), 6.57 (s, 1H), 5.95 (s, 1H), 4.31 (bd s, NH), 3.85 (q, J=7.2 Hz, 2H), 3.34 (m, 1H), 1.04 (s, 9H), 0.93 (t, J=7.2 Hz); ESI+ MS: m/z (rel intensity) 541.0 (100, M++H).

reactant | 3-(2-chloro-phenyl)-3-[7-(2,6-difluoro-phenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N1C1=C(C=CC=C1F)F)C1=C(C=CC=C1)Cl)=O | C24H18ClF2N3O4S
reactant | diisopropylethylamine | 2.36 mmol, 0.41 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-amino-2-methyl-butan-2-ol hydrochloride salt | 0.71 mmol, 0.10 g | Cl.NC(C(C)(O)C)C
reactant | 3-amino-2-methyl-butan-2-ol hydrochloride salt | 0.59 mmol, 0.08 g | Cl.NC(C(C)(O)C)C
solvent | N-methylpyrrolidinone | 4 mL | CN1C(CCC1)=O | C5H9NO
solvent | NH4Cl | [NH4+].[Cl-]
product | 3-(2-chlorophenyl)-3-[7-(2,6-difluoro-phenyl)-2-(2-hydroxy-1,2-dimethyl-propylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC2=C(N=C(N=C2)NC(C(C)(C)O)C)N1C1=C(C=CC=C1F)F)C1=C(C=CC=C1)Cl)=O | C28H27ClF2N4O3
